US07122570B2
1-[[(9H-Fluoren-9-ylmethoxy)carbonyl]amino]-4-oxocyclohexanecarboxylic Acid 2
187 mmol (79 g) of 8-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-1,4-dioxaspiro[4,5]decane-8-carboxylic acid is taken up in 3.51 of acetone/0.1 M HCl 1:1 and stirred for 4 hours at room temperature. The acetone is drawn off in a rotary evaporator, and the precipitated product is filtered off, rewashed with water and dried. Yield: 68.7 g of 2.

reactant | 8-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-1,4-dioxaspiro[4,5]decane-8-carboxylic acid | 187 mmol, 79 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1(CCC2(OCCO2)CC1)C(=O)O | C24H25NO6
solvent | acetone | 0.1 M | CC(=O)C | C3H6O
product | 1-[[(9H-Fluoren-9-ylmethoxy)carbonyl]amino]-4-oxocyclohexanecarboxylic Acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1(CCC(CC1)=O)C(=O)O | C22H21NO5
